US07396958B2
N2-{4-chloro-2-[hydroxy(3-methoxyphenyl)methyl]phenyl}-N2-[(3,4-dimethoxyphenyl)sulfonyl]glycinamide
To 0.7 g of N-{4-chloro-2-[(3-methoxyphenyl)(hydroxy)methyl]phenyl}-3,4-dimethoxybenzenesulfonamide dissolved in 5 ml of THF are added, at room temperature, 0.2 g of potassium tert-butoxide and 0.25 g of 2-bromoacetamide. After 48 hours at 20° C., the reaction medium is concentrated, taken up in ethyl acetate and washed with water. The organic phase is dried over anhydrous sodium sulfate and concentrated. The residue is chromatographed on a column of silica gel, eluting with dichloromethane to give 0.4 g of the expected product.

reactant | N-{4-chloro-2-[(3-methoxyphenyl)(hydroxy)methyl]phenyl}-3,4-dimethoxybenzenesulfonamide | 0.7 g | ClC1=CC(=C(C=C1)NS(=O)(=O)C1=CC(=C(C=C1)OC)OC)C(O)C1=CC(=CC=C1)OC | C22H22ClNO6S
reactant | potassium tert-butoxide | 0.2 g | CC(C)([O-])C.[K+]
reactant | 2-bromoacetamide | 0.25 g | BrCC(=O)N | C2H4BrNO
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | N2-{4-chloro-2-[hydroxy(3-methoxyphenyl)methyl]phenyl}-N2-[(3,4-dimethoxyphenyl)sulfonyl]glycinamide | 0.4 g | ClC1=CC(=C(C=C1)N(CC(=O)N)S(=O)(=O)C1=CC(=C(C=C1)OC)OC)C(C1=CC(=CC=C1)OC)O | C24H25ClN2O7S
